US07659279B2
2-{(2R)-2-[({4-[3-Chloro-4-fluoroanilino]-7-ethoxyquinazolin-5-yl}oxy)methyl]-pyrrolidin-1-yl}-2-oxoethanol
Glycolic acid (22 mg) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 110 mg) were added sequentially, each in one portion, to a stirred solution of N-(3-chloro-4-fluorophenyl)-7-ethoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine (81 mg) and N,N-diisopropylethylamine (68 μl) in DCM (2.5 ml) at room temperature. The reaction mixture was stirred for 16 hours and then concentrated in vacuo to leave a brown residue. The residue was taken up in a 7:2:1 mixture of DMSO:acetonitrile:water, filtered and then purified by reverse phase HPLC. The fractions containing the required product were combined, basified by the addition of potassium carbonate and then extracted with DCM. The organic layer was dried (MgSO4) and then concentrated in vacuo to give the title compound as a white solid (36 mg, 39%); NMR Spectrum (DMSO-d6 at 373 K) 9.80 (br s, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.65 (m, 1H), 7.33 (m, 1H), 6.80 (m, 2H), 4.60 (m, 1H), 4.50 (m, 1H), 4.30-4.10 (m, 4H), 4.0 (m, 2H), 3.50-3.40 (m, 2H), 2.10-1.85 (m, 4H), 1.40 (t, 3H); Mass spectrum MH+ 475.

reactant | Glycolic acid | 22 mg | C(CO)(=O)O | C2H4O3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 110 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-(3-chloro-4-fluorophenyl)-7-ethoxy-5-[(2R)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine | 81 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@@H]1NCCC1)OCC | C21H22ClFN4O2
reactant | N,N-diisopropylethylamine | 68 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-{(2R)-2-[({4-[3-Chloro-4-fluoroanilino]-7-ethoxyquinazolin-5-yl}oxy)methyl]-pyrrolidin-1-yl}-2-oxoethanol | 36 mg, 39% | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)OCC)C=CC1F | C23H24ClFN4O4
